US08278302B2
2-Methyl-6-oxo-1,6-dihydro-pyridine-3-carbonitrile
A solution of (E)-3-amino-but-2-enenitrile (100 g) and propynoic acid methyl ester in DMF (200 ml) was stirred at 25° C. for 2 h and refluxed for additional 1 h. Dowtherm (100 ml) was added and the temperature was rised to 230° C. DMF and MeOH were distilled off. The reaction mixture was cooled down, EtOAc (200 ml) was added and the resulting crystals were filtered off and washed with EtOAc and ether affording the title compound (44.8 g, FP>250° C.).

reactant | (E)-3-amino-but-2-enenitrile | 100 g | N/C(=C/C#N)/C | C4H6N2
reactant | propynoic acid methyl ester | COC(C#C)=O | C4H4O2
reactant | Dowtherm | 100 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-Methyl-6-oxo-1,6-dihydro-pyridine-3-carbonitrile | CC=1NC(C=CC1C#N)=O | C7H6N2O
